US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{2-(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidine (3.63 g) in ethyl acetate (40 ml) were added successively triethylamine (2.29 ml) and methanesulfonyl chloride (1.09 ml) with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water (20 ml). The organic layer was separated and washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-{2(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidine (3.85 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{2-(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidine | 3.63 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCN1C=NC=C1COC | C15H23N3O4
reactant | triethylamine | 2.29 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.09 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 20 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-{2(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidine | 3.85 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC=C1COC | C16H25N3O6S
